US07569589B2
Lithium hexamethyldisilazide solution (8.39 mL of 1M in tetrahydrofuran, 8.39 mmol) was added to dry THF and cooled to −78° C. Methyl phenylacetate (1.15 mL, 7.99 mmol) was added dropwise, and the reaction stirred for 15 minutes. A solution of 1-benzyl-5-ethoxy-3,4-dihydro-2H-pyrrolium tetrafluoroborate in 5 mL of tetrahydrofuran was added dropwise, and after one hour the reaction was allowed to warm to room temperature. The mixture was quenched with saturated NaHCO3 solution, warmed to ambient temperature and poured into water. The aqueous layer was extracted with EtOAc and the organic extract was washed with brine, dried with Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (25-30% EtOAc/hexane), providing methyl 2-(1-benzylpyrrolidin-2-ylidene)(phenyl)acetate. ESI+MS: 308.3 [M+H]+.

reactant | Lithium hexamethyldisilazide | 8.39 mmol, 1M, 8.39 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Methyl phenylacetate | 7.99 mmol, 1.15 mL | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | 1-benzyl-5-ethoxy-3,4-dihydro-2H-pyrrolium tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)[N+]=1CCCC1OCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | methyl 2-(1-benzylpyrrolidin-2-ylidene)(phenyl)acetate | C(C1=CC=CC=C1)N1C(CCC1)=C(C(=O)OC)C1=CC=CC=C1 | C20H21NO2
